US06420546B1
4-N-Acetyl-2′-fluoro-2′-deoxycytidine
1 g (about 4 mmol) of 2′-fluoro-2′-deoxycytidine hydrochloride is coevaporated with 20 ml of abs. pyridine twice and twice with 10 ml of abs. acetonitrile each time in a 100 ml Schlenk flask. The dried nucleosidic material is suspended in 40 ml of abs. DMF, and 0.6 ml (about 4.4 mmol) of acetic anhydride is added. Over the course of one day 0.5 ml (4.4 mmol) of abs. triethylamine is added dropwise to the mixture. The solvent is subsequently stripped off under oil pump vacuum. The crude product is washed with 50 ml of diethyl ether and subsequently dried. Purification was by column chromatography (silica gel 60 H, column 4×10 cm, mobile phase methylene chloride with 0.1% pyridine, gradient methanol); the product is eluted at 8% methanol.

reactant | 2′-fluoro-2′-deoxycytidine hydrochloride | about 4 mmol, 1 g | Cl.F[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)N=C(N)C=C1
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | acetonitrile | C(C)#N | C2H3N
reactant | acetic anhydride | about 4.4 mmol, 0.6 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-N-Acetyl-2′-fluoro-2′-deoxycytidine | C(C)(=O)NC1=NC(N([C@H]2[C@@H]([C@H](O)[C@@H](CO)O2)F)C=C1)=O | C11H14FN3O5
